US07384963B2
2′-Methyl-N-methyl-N-(4-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4carboxamide was prepared from 2′-methyl-N-(4-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and iodomethane using method L. NMR; δH [2H6]—DMSO 7.88,(1H, d), 7.75,(1H, s), 7.55-7.47,(5H, m), 7.25-7.08,(4H, m), 4.65-4.49,(2H, m), 2.88,(3H, m), 2.55,(3H, s), 2.32,(6H, m). LCMS; retention time 3.60 min, MH+ 412.

reactant | 2′-methyl-N-(4-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)C | C25H23N3O2
reactant | iodomethane | IC | CH3I
product | 2′-Methyl-N-methyl-N-(4-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)N(CC1=CC=C(C=C1)C)C | C26H25N3O2
